US03940395
Employing the procedure of Example XX, 7.7 g. of 4,6-dichloro-2-(4-methoxyphenyl)-pyrimidine is reacted with 6.0 g. of N-methylpiperazine in 45 ml. of absolute ethanol to afford 4-chloro-2-(4-methoxyphenyl)-6-(4-methyl-1-piperazinyl)-pyrimidine, m.p. 88°-90°C.

reactant | 4,6-dichloro-2-(4-methoxyphenyl)-pyrimidine | ClC1=NC(=NC(=C1)Cl)C1=CC=C(C=C1)OC | C11H8Cl2N2O
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | ethanol | C(C)O | C2H6O
product | 4-chloro-2-(4-methoxyphenyl)-6-(4-methyl-1-piperazinyl)-pyrimidine | ClC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC=C(C=C1)OC | C16H19ClN4O
